US07718657B2
Methyl 4-(4-amino-2,3-dihydro-1H-inden-1-yl)piperazine-1-carboxylate.
To a room temperature solution of methyl 4-(4-nitro-2,3-dihydro-1H-inden-1-yl)piperazine-1-carboxylate (216 mg, 0.71 mmol, 1.0 equiv) in MeOHH (2.8 mL) and glacial HOAc (2.8 mL) was added iron powder (198 mg, 3.54 mmol, 5.0 equiv) as a solid in one portion. After stirring overnight, the reaction mixture was concentrated in vacuo and then diluted with EtOAc and 3 N NaOH. The organic layer was washed with brine and concentrated in vacuo to provide the title compound as a brown oil (180 mg, 92%).

reactant | methyl 4-(4-nitro-2,3-dihydro-1H-inden-1-yl)piperazine-1-carboxylate | 0.71 mmol, 216 mg, 1.0 equiv | [N+](=O)([O-])C1=C2CCC(C2=CC=C1)N1CCN(CC1)C(=O)OC | C15H19N3O4
catalyst | iron | 3.54 mmol, 198 mg, 5.0 equiv | [Fe] | Fe
solvent | HOAc | 2.8 mL | CC(=O)O | C2H4O2
product | Methyl 4-(4-amino-2,3-dihydro-1H-inden-1-yl)piperazine-1-carboxylate | 180 mg, 92% | NC1=C2CCC(C2=CC=C1)N1CCN(CC1)C(=O)OC | C15H21N3O2
